### PR TITLE
[Merged by Bors] - feat(Algebra): finiteness of associated primes

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR we proved the finiteness of associated primes for finitely generated modules over notherian ring. Mainly from https://github.com/acmepjz/lean-iwasawa/blob/master/Iwasawalib/RingTheory/CharacteristicIdeal/Basic.lean authored by @acmepjz 

Co-authored-by: Jz Pan <acme_pjz@hotmail.com>

---

- [x] depends on: #23876
- [x] depends on: #23903
- [x] depends on: #24451
- [x] depends on: #24453

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean [hunk 1]
```diff
@@ -0,0 +1,283 @@
...
+    (subsingleton : (N : Type v) → [AddCommGroup N] → [Module A N] → [Module.Finite A N] →
+      [Subsingleton N] → motive N)
+    (quotient : (N : Type v) → [AddCommGroup N] → [Module A N] → [Module.Finite A N] →
+      (p : PrimeSpectrum A) → (N ≃ₗ[A] A ⧸ p.1) → motive N)
+    (exact : (N₁ : Type v) → [AddCommGroup N₁] → [Module A N₁] → [Module.Finite A N₁] →
+      (N₂ : Type v) → [AddCommGroup N₂] → [Module A N₂] → [Module.Finite A N₂] →
+      (N₃ : Type v) → [AddCommGroup N₃] → [Module A N₃] → [Module.Finite A N₃] →
+      (f : N₁ →ₗ[A] N₂) → (g : N₂ →ₗ[A] N₃) →
+      Function.Injective f → Function.Surjective g → Function.Exact f g →
+      motive N₁ → motive N₃ → motive N₂) : motive M := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:201]: Shouldn't `exact` imply that your `motive` is stable under isomorphisms and hence `quotient` should just be `motive (A / p)`?

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean [hunk 2]
```diff
@@ -0,0 +1,283 @@
...
+
+section
+
+omit [Module.Finite A M]
+
+/-- A `Prop` asserting that two submodules `N₁, N₂` satisfy `N₁ ≤ N₂` and
+`N₂ / N₁` is isomorphic to `A / p` for some prime ideal `p` of `A`. -/
+def Submodule.IsQuotientEquivQuotientPrime (N₁ N₂ : Submodule A M) :=
+  ∃ (h : N₁ ≤ N₂) (p : PrimeSpectrum A),
+    Nonempty ((↥N₂ ⧸ LinearMap.range (Submodule.inclusion h)) ≃ₗ[A] A ⧸ p.1)
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:55]: Are you sure you want `LinearMap.range (Submodule.inclusion h)` and not `N₁.comap N₂.subtype`?

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean [hunk 3]
```diff
@@ -0,0 +1,283 @@
...
+
+private theorem aux (h : N ≠ ⊤) :
+    ∃ (p : PrimeSpectrum A) (f : A ⧸ p.1 →ₗ[A] M ⧸ N), Function.Injective f := by
+  have := Submodule.Quotient.nontrivial_of_lt_top _ h.lt_top
+  have H := associatedPrimes.nonempty A (M ⧸ N)
+  have hprime := (AssociatePrimes.mem_iff.1 H.some_mem).1
+  obtain ⟨a, ha⟩ := (AssociatePrimes.mem_iff.1 H.some_mem).2
+  exact ⟨⟨_, hprime⟩, Submodule.liftQ _ _ ha.le,
+    LinearMap.ker_eq_bot.1 (Submodule.ker_liftQ_eq_bot' _ _ ha)⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:64]: Arguably this should be proved for every associated prime.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 2 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:55]: I am sure we should use the later one, this should be refactored. Also in #23903 I want to add this as a def.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:201]: `motive (A / p)` can't compile since `A / p` is in different universe level. See discussions here [#mathlib4 > How to write induction principle for modules @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/How.20to.20write.20induction.20principle.20for.20modules/near/513275096)

Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:201]: This also explains why `exact` does not use `Submodule` and quotient.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:64]: OK I think I'll add an equivalence definition to `AssociatePrimes.mem_iff`.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:55]: This is the first time I see `N₁.comap N₂.subtype` convention. Will study it and adapt the following codes.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:55]: This is used in `Subgroup.subgroupOf` so I think we should also have one for submodule.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:63]: @acmepjz are you editing this part? If yes, then I can move to other works.

Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:63]: Not now but I plan to do this before tomorrow.

Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean]: OK add `isAssociatedPrime_iff_exists_injective_linearMap` and moved to `Basic.lean`.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean [hunk 4]
```diff
@@ -92,9 +103,54 @@ theorem exists_le_isAssociatedPrime_of_isNoetherianRing [H : IsNoetherianRing R]
...
+@[stacks 02M3 "first part"]
 theorem associatedPrimes.subset_of_injective (hf : Function.Injective f) :
     associatedPrimes R M ⊆ associatedPrimes R M' := fun _I h => h.map_of_injective f hf
 
+/-- If `0 → M → M' → M''` is an exact sequence, then the set of associated primes of `M'` is
+contained in the union of those of `M` and `M''`. -/
+@[stacks 02M3 "second part"]
+theorem associatedPrimes.subset_union_of_exact
+    {M'' : Type*} [AddCommGroup M''] [Module R M'']
+    (g : M' →ₗ[R] M'') (hf : Function.Injective f) (hfg : Function.Exact f g) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:117]:
```suggestion
    {g : M' →ₗ[R] M''} (hf : Function.Injective f) (hfg : Function.Exact f g) :
```
If you want.

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 5]
```diff
@@ -208,6 +208,27 @@ theorem le_comap_pow_of_le_comap (p : Submodule R M) {f : M →ₗ[R] M}
   | zero => simp [Module.End.one_eq_id]
   | succ k ih => simp [Module.End.iterate_succ, comap_comp, h.trans (comap_mono ih)]
 
+section comapRestrict
+
+variable [Module R M₂] (q : Submodule R M₂) (f : M →ₗ[R] M₂)
+
+/-- For a linear map `f`, the map from `Submodule.comap q f` to `q` for a submodule `q`
+obtained from restricting `f` using `LinearMap.restrict`. -/
+def comapRestrict : ↥(q.comap f) →ₗ[R] ↥q :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/Submodule/Map.lean:217]: `comapRestrict`  is a particular case of `restrict`: what about just using its definition (maybe as an `abbrev`) without introducing a new def?

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean [hunk 6]
```diff
@@ -0,0 +1,205 @@
...
+-/
+
+universe u v
+
+variable {A : Type u} [CommRing A] [IsNoetherianRing A]
+  {M : Type v} [AddCommGroup M] [Module A M] [Module.Finite A M] {n : ℕ} {N : Submodule A M}
+
+section
+
+omit [Module.Finite A M]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:47]: Instead of omitting the assumption, can you just assume it later?

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean [hunk 7]
```diff
@@ -0,0 +1,205 @@
...
+
+/-- A `Prop` asserting that two submodules `N₁, N₂` satisfy `N₁ ≤ N₂` and
+`N₂ / N₁` is isomorphic to `A / p` for some prime ideal `p` of `A`. -/
+def Submodule.IsQuotientEquivQuotientPrime (N₁ N₂ : Submodule A M) :=
+  N₁ ≤ N₂ ∧ ∃ (p : PrimeSpectrum A), Nonempty ((↥N₂ ⧸ N₁.submoduleOf N₂) ≃ₗ[A] A ⧸ p.1)
+
+private theorem aux (h : N ≠ ⊤) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:54]: Even if those are private, can you choose a reasonable name? Or at least put them in a namespace.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean [hunk 8]
```diff
@@ -0,0 +1,205 @@
...
+    ∃ (p : PrimeSpectrum A) (f : A ⧸ p.1 →ₗ[A] M ⧸ N), Function.Injective f := by
+  have := Submodule.Quotient.nontrivial_of_lt_top _ h.lt_top
+  have h := (associatedPrimes.nonempty A (M ⧸ N)).some_mem
+  rw [AssociatePrimes.mem_iff, isAssociatedPrime_iff_exists_injective_linearMap] at h
+  exact ⟨⟨_, h.1⟩, h.2⟩
+
+private noncomputable def auxP (h : N ≠ ⊤) : PrimeSpectrum A := (aux h).choose
+
+private noncomputable def auxLinearMap (h : N ≠ ⊤) :
+    A ⧸ (auxP h).1 →ₗ[A] M ⧸ N := (aux h).choose_spec.choose
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:64]: Can you `Exists.choose` such linear maps as a `def` for all `p \in associatedPrimes P`? Or rather choose `x` such that `p = ann(x)` and define this with that.

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:64]: I have a better suggestion.

If you add these lemmas in the end (which are useful in their own rights except perhaps `Submodule.isQuotientEquivQuotientPrime_iff`), then the proof of `exists_relSeries` is just
```
theorem IsNoetherianRing.exists_relSeries_isQuotientEquivQuotientPrime :
    ∃ s : RelSeries (Submodule.IsQuotientEquivQuotientPrime (A := A) (M := M)),
      s.head = ⊥ ∧ s.last = ⊤ := by
  refine WellFoundedGT.induction_top ⟨⊥, .singleton _ ⊥, rfl, rfl⟩ ?_
  rintro N hN ⟨s, hs₁, hs₂⟩
  have := Submodule.Quotient.nontrivial_of_lt_top _ hN.lt_top
  obtain ⟨p, hp, x, rfl⟩ := associatedPrimes.nonempty A (M ⧸ N)
  obtain ⟨x, rfl⟩ := Submodule.mkQ_surjective _ x
  have hxN : x ∉ N := fun h ↦ hp.ne_top
    (by simp only [show N.mkQ x = 0 by simpa, LinearMap.ker_toSpanSingleton_zero])
  have := Submodule.isQuotientEquivQuotientPrime_iff.mpr ⟨x, hp, rfl⟩
  refine ⟨_, by simpa [hs₂], s.snoc _ (hs₂ ▸ this), by simpa, rfl⟩
```
without all the ugly aux defs.

```
lemma Ideal.Quotient.span_singleton_one {R : Type*}
    [Ring R] (I : Ideal R) [I.IsTwoSided] :
    Submodule.span R {(1 : R ⧸ I)} = ⊤ := by
  rw [← map_one (mk _), ← Submodule.range_mkQ I, ← Submodule.map_top, ← Ideal.span_singleton_one,
    Ideal.span, Submodule.map_span, Set.image_singleton]
  rfl

lemma LinearMap.range_toSpanSingleton {R M : Type*}
    [Semiring R] [AddCommMonoid M] [Module R M] (x : M) :
    range (toSpanSingleton R M x) = .span R {x} :=
  SetLike.coe_injective (Submodule.span_singleton_eq_range R x).symm

lemma Submodule.submoduleOf_self {R M : Type*}
    [Semiring R] [AddCommMonoid M] [Module R M] (N : Submodule R M) :
    N.submoduleOf N = ⊤ := comap_subtype_self _

lemma Submodule.submoduleOf_span_singleton_of_mem {R M : Type*}
    [Ring R] [AddCommGroup M] [Module R M] (N : Submodule R M) {x : M} (hx : x ∈ N) :
    (span R {x}).submoduleOf N = span R {⟨x, hx⟩} := by
  have : LinearMap.ker N.subtype ≤ span R {⟨x, hx⟩} := by simp
  convert Submodule.comap_map_eq_self this using 2
  rw [map_span, Set.image_singleton]
  rfl

@[simp]
lemma LinearMap.ker_toSpanSingleton_zero {R M : Type*}
    [Semiring R] [AddCommMonoid M] [Module R M] :
    ker (toSpanSingleton R M 0) = ⊤ := by ext; simp

lemma Submodule.submoduleOf_sup_of_le {R M : Type*}
    [Ring R] [AddCommGroup M] [Module R M] {N₁ N₂ N : Submodule R M}
    (h₁ : N₁ ≤ N) (h₂ : N₂ ≤ N) :
    (N₁ ⊔ N₂).submoduleOf N = N₁.submoduleOf N ⊔ N₂.submoduleOf N := by
  apply Submodule.map_injective_of_injective N.subtype_injective
  simp only [submoduleOf, map_comap_eq]
  aesop

open LinearMap in
lemma Submodule.isQuotientEquivQuotientPrime_iff {N₁ N₂ : Submodule A M} :
    N₁.IsQuotientEquivQuotientPrime N₂ ↔
      ∃ x, Ideal.IsPrime (ker (toSpanSingleton A _ (N₁.mkQ x))) ∧ N₂ = N₁ ⊔ span A {x} := by
  let f := mapQ (N₁.submoduleOf N₂) N₁ N₂.subtype le_rfl
  have hf₁ : ker f = ⊥ := ker_liftQ_eq_bot _ _ _ (by simp [f, ker_comp, submoduleOf])
  have hf₂ : range f = N₂.map N₁.mkQ := by simp [f, mapQ, range_liftQ, range_comp]
  refine ⟨fun ⟨h, p, ⟨e⟩⟩ ↦ ?_, fun ⟨x, hx, hx'⟩ ↦ ⟨le_sup_left.trans_eq hx'.symm, ⟨_, hx⟩, ?_⟩⟩
  · obtain ⟨⟨x, hx⟩, hx'⟩ := Submodule.mkQ_surjective _ (e.symm 1)
    have hx'' : N₁.mkQ x = f (e.symm 1) := by simp [f, ← hx']
    refine ⟨x, ?_, ?_⟩
    · convert p.2
      ext r
      simp [hx'', ← map_smul, Algebra.smul_def, show f _ = 0 ↔ _ from congr(_ ∈ $hf₁),
        Ideal.Quotient.eq_zero_iff_mem]
    · refine le_antisymm ?_ (sup_le h ((span_singleton_le_iff_mem _ _).mpr hx))
      have : (span A {x}).map N₁.mkQ = ((span A {1}).map e.symm).map f := by
        simp only [map_span, Set.image_singleton, hx'']
      rw [← N₁.ker_mkQ, sup_comm, ← comap_map_eq, ← map_le_iff_le_comap, this]
      simp [← map_span, hf₂, Ideal.Quotient.span_singleton_one]
  · have hxN₂ : x ∈ N₂ := (le_sup_right.trans_eq hx'.symm) (mem_span_singleton_self x)
    refine ⟨.symm (.ofBijective (Submodule.mapQ _ _ (toSpanSingleton A _ ⟨x, hxN₂⟩) ?_) ⟨?_, ?_⟩)⟩
    · simp [SetLike.le_def, ← Quotient.mk_smul, submoduleOf]
    · refine ker_eq_bot.mp (ker_liftQ_eq_bot _ _ _ ?_)
      simp [← Quotient.mk_smul, SetLike.le_def, submoduleOf]
    · rw [mapQ, ← range_eq_top, range_liftQ, range_comp]
      have := congr($(hx').submoduleOf N₂)
      rw [submoduleOf_self, submoduleOf_sup_of_le (by aesop) (by aesop),
        submoduleOf_span_singleton_of_mem _ hxN₂] at this
      simpa [← span_singleton_eq_range, LinearMap.range_toSpanSingleton] using this.symm

@[elab_as_elim]
lemma WellFoundedGT.induction_top {α : Type*} [Preorder α] [WellFoundedGT α] [OrderTop α]
    {P : α → Prop} (hexists : ∃ M, P M) (hind : ∀ N ≠ ⊤, P N → ∃ M > N, P M) : P ⊤ := by
  contrapose! hexists
  intro M
  induction M using WellFoundedGT.induction with
  | ind x IH =>
    by_cases hx : x = ⊤
    · exact hx ▸ hexists
    · intro hx'
      obtain ⟨M, hM, hM'⟩ := hind x hx hx'
      exact IH _ hM hM'
```

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean (hunk 4 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Basic.lean:117]: In `associatedPrimes.subset_of_injective` the `f` is explicit. So maybe in this result the `g` should also be explicit.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 8 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean:64]: > I have a better suggestion.

Thank you very much! Will look at it later.

File: Mathlib/Algebra/Module/Submodule/Map.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/Algebra/Module/Submodule/Map.lean]: Done. Now it's `abbrev` instead of `def` so the simp lemma is not needed anymore.

BTW, I split this to a small PR #24451. Hopefully it will speed up the reviewing process.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 8 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean]: Thank you! It works. Let me move the preliminary results to corresponding files.

**Comment by acmepjz** [comment]
@erdOne Where should `WellFoundedGT.induction_top` go? `#find_home` suggests:

```text
Mathlib.Order.BoundedOrder.Lattice, Mathlib.Order.GaloisConnection.Defs, Mathlib.Order.BoundedOrder.Monotone, Mathlib.Algebra.Order.Monoid.Unbundled.TypeTags, Mathlib.Order.WithBot, <some others not related to Order>
```

What do you think? Should we create a new file on this result? Should we also add a dual version `WellFoundedLT.induction_bot`?

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean]: Done.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean]: The proof was changed and these private things were removed.

**Comment by riccardobrasca** [comment]
> @erdOne Where should `WellFoundedGT.induction_top` go? `#find_home` suggests:
> 
> ```
> Mathlib.Order.BoundedOrder.Lattice
> Mathlib.Order.BoundedOrder.Monotone
> Mathlib.Order.GaloisConnection.Defs <-- (less relevant)
> Mathlib.Order.WithBot <-- (less relevant)
> <some others not related to Order>
> ```
> 
> What do you think? Should we create a new file on this result? Should we also add a dual version `WellFoundedLT.induction_bot`?

We surely want the dual version. I think you can just pick `Mathlib.Order.BoundedOrder.Lattice` (no need for a new file).

**Comment by acmepjz** [comment]
Done.

File: Mathlib/RingTheory/Ideal/Quotient/Operations.lean [hunk 9]
```diff
@@ -429,6 +429,12 @@ theorem Quotient.liftₐ_comp (I : Ideal A) [I.IsTwoSided]
     (Ideal.Quotient.liftₐ I f hI).comp (Ideal.Quotient.mkₐ R₁ I) = f :=
   AlgHom.ext fun _ => (Ideal.Quotient.lift_mk I (f : A →+* B) hI :)
 
+theorem Quotient.span_singleton_one (I : Ideal A) [I.IsTwoSided] :
+    Submodule.span A {(1 : A ⧸ I)} = ⊤ := by
+  rw [← map_one (mk _), ← Submodule.range_mkQ I, ← Submodule.map_top, ← Ideal.span_singleton_one,
+    Ideal.span, Submodule.map_span, Set.image_singleton]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Quotient/Operations.lean:436]: Is it possible to replace this `rfl` by a `rw` or an `exact`?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Ideal/Quotient/Operations.lean (hunk 9 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/Quotient/Operations.lean:436]: I don't know; this code is not written by me...

Comment (acmepjz) [reply Mathlib/RingTheory/Ideal/Quotient/Operations.lean]: Done.
